US06635640B2
3-[3-Methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-pyridin-4-yl-1,3-dihydroindol-2-one
4-Pyridin-4-yl-1,3-dihydroindol-2-one was condensed with 3-methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde to give the title compound.

reactant | 4-Pyridin-4-yl-1,3-dihydroindol-2-one | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 3-methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | CC1=C(NC(=C1)C(=O)N1CCN(CC1)C)C=O | C12H17N3O2
product | 3-[3-Methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-pyridin-4-yl-1,3-dihydroindol-2-one | CC1=C(NC(=C1)C(=O)N1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C1=CC=NC=C1)=O | C25H25N5O2
